US05863946
To a stirred solution of meclofenamic acid (4.27 g, 13.4 mmol) in THF (75 mL) at 0° C. was added LiAlH4 (1.02 g, 26.8 mmol) in portions over 0.5 hour. The mixture was maintained cold for 2 hrs after which it was slowly added to a cold solution of H3PO4 (1M, 100 mL) and extracted with ethyl ether (3×75 mL). The combined organic layers were washed with water and brine, dried over MgSO4. filtered, and evaporated in vacuo. Purification by chromatography on silica gel (9:1 hexanes/ethyl acetate) afforded 2.1 g (56%) of 2-[(2,6-dichloro-3-methylphenyl)amino]phenylmethanol as an off white solid.

reactant | meclofenamic acid | 13.4 mmol, 4.27 g | CC=1C=CC(=C(C1Cl)NC=2C=CC=CC2C(=O)O)Cl | C14H11Cl2NO2
reactant | LiAlH4 | 26.8 mmol, 1.02 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | H3PO4 | 1M, 100 mL | OP(=O)(O)O | H3O4P
solvent | THF | 75 mL | C1CCOC1 | C4H8O
product | 2-[(2,6-dichloro-3-methylphenyl)amino]phenylmethanol | 2.1 g, 56% | ClC1=C(C(=CC=C1C)Cl)NC1=C(C=CC=C1)CO | C14H13Cl2NO
